US08080552B2
173 mg (6.85 mmol) 95% sodium hydride was given to a solution of 979 mg (6.23 mmol) 3-fluoro-4-nitrophenol in 10 ml DMF. Stirring was continued for 30 min. at room temperature. 1.00 g (6.23 mmol) 4-chloro-2-methylsulfanyl-pyrimidine was added and the mixture heated to 80° C. for 16 h. The reaction mixture was evaporated, taken up with water and extracted with ethyl acetate. The organic phase was extracted with water, dried (sodium sulphate) and evaporated. The obtained material was dissolved in ethyl acetate and purified by chromatography over silica (ethyl acetate/n-heptane 1:2) to give 570 mg 4-(3-fluoro-4-nitro-phenoxy)-2-methylsulfanyl-pyrimidine.

reactant | sodium hydride | 6.85 mmol, 173 mg | [H-].[Na+]
reactant | 3-fluoro-4-nitrophenol | 6.23 mmol, 979 mg | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 4-chloro-2-methylsulfanyl-pyrimidine | 6.23 mmol, 1.00 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-fluoro-4-nitro-phenoxy)-2-methylsulfanyl-pyrimidine | 570 mg | FC=1C=C(OC2=NC(=NC=C2)SC)C=CC1[N+](=O)[O-] | C11H8FN3O3S
